US06221914B1
6-Cyano-naphthalene-2-carbonyl chloride
A mixture of 6-cyano-naphthalene-2-carboxylic acid (250.00 mg, 1.27 mmol), thionyl chloride (15 mL), and a few drops of DMF was refluxed for two hours under a condenser equipped with a drying tube containing anhydrous calcium sulfate. The thionyl chloride was then removed by high vacuum distillation, yielding a quantitative yield of a yellow solid. This material was not characterized, and was carried on without further purification.

reactant | 6-cyano-naphthalene-2-carboxylic acid | 1.27 mmol, 250.00 mg | C(#N)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C12H7NO2
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | 6-Cyano-naphthalene-2-carbonyl chloride | quantitative yield | C(#N)C=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C12H6ClNO
